US05166385
Methyl 3-(dimethoxyphosphinyl)propionate
86 g of methylacrylate and 100 g of isobutanol are mixed under nitrogen at room temperature and heated to 80° C. 124 g of trimethylphosphite are added dropwise to the reaction solution in the course of 1 hour. The reaction mixture is stirred for 5 hours at reflux temperature and the solvent (remainder of isobutanol and isobutyl methyl ether) is removed by vacuum distillation. The crude product is obtained in a yield of 173 g with a 94.1% purity, which corresponds to a theoretical yield of 83.0%. The boiling point is 104°-106° C. at 0.93 mbar.

reactant | methylacrylate | 86 g | COC(C=C)=O | C4H6O2
reactant | trimethylphosphite | 124 g | COP(OC)OC | C3H9O3P
solvent | isobutanol | 100 g | C(C(C)C)O | C4H10O
product | Methyl 3-(dimethoxyphosphinyl)propionate | yield of 83.0% | COP(=O)(CCC(=O)OC)OC | C6H13O5P
